US03963740
By condensation of 1-chloro-4-methyl-9-xanthenone with 2-(dimethylamino)ethylhydrazine was obtained 2-(2-(dimethylamino)ethyl)-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole. To 0.11 g. of this base in ethanol (10 ml.) was added 30% aqueous hydrogen peroxide (0.2 ml.). After 22 hours at room temperature the solution was evaporated to dryness under reduced pressure and the residue crystallized from ethanol-ether to give 2-(2-(dimethylamino)ethyl)-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole N-oxide sesquihydrate, m.p. 139° - 140° (decomp.).

reactant | 1-chloro-4-methyl-9-xanthenone | ClC1=CC=C(C=2OC3=CC=CC=C3C(C12)=O)C | C14H9ClO2
reactant | 2-(dimethylamino)ethylhydrazine | CN(CCNN)C | C4H13N3
product | 2-(2-(dimethylamino)ethyl)-5-methyl-2H(1)benzopyrano[4,3,2-cd]indazole | CN(CCN1N=C2C=3C(=C(C=CC13)C)OC1=C2C=CC=C1)C | C18H19N3O
